US07652049B2
Diethylalumninum cyanide (4.53 mL, 1M in toluene, 4.53 mmol) was added dropwise to a stirred solution of benzyl [(1S)-1-methyl-2-oxoethyl]carbamate (0.853 g, 4.12 mmol) in dry toluene (33 mL) at −78° C. under N2. The mixture was stirred at −78° C. for 6 h and then allowed to warm to room temperature overnight. Saturated NH4Cl (20 mL) and water (10 mL) were added then the mixture was extracted with EtOAc (3×50 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to afford the crude product. This was purified by flash chromatography (Si, 40×160 mm, 0-40% EtOAc in hexanes gradient) to afford benzyl [(1S)-2-cyano-2-hydroxy-1-methylethyl]carbamate as a 3:1 mixture of diastereoisomers. Rf=0.63 (50% EtOAc in hexanes). LCMS calc.=257.1; found=257.1 (M+1)+. 1H NMR (500 MHz, CDCl3) major diastereoisomer: δ 7.39-7.31 (m, 5H), 5.11 (m, 2H), 4.60 br (s, 1H), 3.96 (m, 1H), 1.34 (d, J=6.7 Hz, 3H), minor diastereoisomer: δ 7.39-7.31 (m, 5H), 5.14 (m, 2H), 4.50 br (s, 1H), 4.10 (m, 1H), 1.30 (d, J=7.0 Hz, 3H).

reactant | cyanide | 4.53 mmol, 1M, 4.53 mL | [C-]#N
reactant | benzyl [(1S)-1-methyl-2-oxoethyl]carbamate | 4.12 mmol, 0.853 g | C[C@@H](C=O)NC(OCC1=CC=CC=C1)=O | C11H13NO3
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
reactant | water | 10 mL | O | H2O
solvent | toluene | 33 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl [(1S)-2-cyano-2-hydroxy-1-methylethyl]carbamate | C(#N)C([C@H](C)NC(OCC1=CC=CC=C1)=O)O | C12H14N2O3
